US05587385
To a stirred solution of 4-(4'-methoxyphenyl)methylenehomophthalimide (279 mg, 1 mmol) in anhydrous dichloromethane (10 ml) is added at -78° C. under nitrogen, over a period of 10 min, a 1.0M solution of boron tribromide in dichloromethane (3 ml, 3 mmol). The resulting mixture is stirred for another 1 h at -78° C. and then allowed to warm to room temperature. After stirring for 1.5 h at 20°-25° C. the mixture is cooled to -10° C. and then quenched by dropwise addition of water (10 ml) over a 10-min period. After addition of ethyl acetate (10 ml) the organic layer is separated, washed with water, dried over Na2SO4 and evaporated under vacuum to dryness. The residue is crystallized from ethanol thus giving pure 4-(4'-hydroxyphenyl)methylenehomophthalimide (186 mg, yield 70%).

reactant | 4-(4'-methoxyphenyl)methylenehomophthalimide | 1 mmol, 279 mg | COC1=CC=C(C=C1)C=C1CC2=C(CC(=O)NC2=O)C=C1 | C17H15NO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mmol, 3 ml | ClCCl | CH2Cl2
product | 4-(4'-hydroxyphenyl)methylenehomophthalimide | 186 mg, yield 70% | OC1=CC=C(C=C1)C=C1CC2=C(CC(=O)NC2=O)C=C1 | C16H13NO3
